US06110962
4-(6-Methoxy-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenol
To cold (ice bath) anhydrous methanol (13.2 mL) was added sodium hydride (80% by weight suspension in mineral oil, 1.70 g, 56.6 mmol) in three portions. After stirring in the cold for 0.5 hours and at ambient temperature for 50 minutes copper II chloride (0.251 g, 1.87 mmol) and solution of methanesulfonic acid 4-(6-iodo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester (3.00 g, 5.66 mmol) in dry N,N-dimethylformamide (24 mL) were added. The reaction mixture was heated at reflux for approximately 3 hours, cooled to room temperature, diluted with water (400 mL), acidified with 10% hydrochloric acid and extracted with diethyl ether. The extracts were combined, silica gel was added and the solvent removed. The adsorbate was flash chromatographed (40/60 petroleum ether/methylene chloride) to provide the title compound as a white solid (1.82 g, 90%): mp 218-223° C. (dec); NMR (CDCl3); δ 8.27 (ddd, J=8, 1, 1 Hz, 1H), 7.80 (ddd, J=8, 1, 1 Hz, 1H), 7.65 (ddd, J=8, 1, 1 Hz, 1H), 7.57 (ddd, J=8, 7, 1 Hz, 1H), 7.40 (ddd, J=8, 7, 1 Hz, 1H), 7.36 (ddd, J=8, 7, 1 Hz, 1H), 7.30-7.26 (m, 2H), 7.13-7.07 (m, 3H), 6.85 (ddd, J=8, 1, 1 Hz, 1H), 4.98 (s, 1H), 4.21 (S, 3H); MS (EI): [M+], 356 (100%); Anal. Calc. for C23H16O2S: C, 77.50, H, 4.52, N, 0.00; Found C, 76.79, H, 4.61, N, 0.11.

reactant | methanol | 13.2 mL | CO | CH4O
reactant | sodium hydride | 56.6 mmol, 1.70 g | [H-].[Na+]
reactant | methanesulfonic acid 4-(6-iodo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester | 5.66 mmol, 3.00 g | IC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC=C(C=C3)OS(=O)(=O)C | C23H15IO3S2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 24 mL | CN(C=O)C | C3H7NO
solvent | water | 400 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium | 1.87 mmol, 0.251 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 4-(6-Methoxy-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenol | 1.82 g, 90% | COC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC=C(C=C3)O | C23H16O2S
